US04650872
A solution of 30.6 g of 2,6-dichloropyridine-4-carbonitrile and 100 ml of dimethylsulfoxide was cooled to 0° C. in an ice bath and 26 g of hydrazine hydrate was added dropwise at a rate such that the temperature remained below 30° C. A heavy yellow precipitate formed and, after 2 hours, the reaction mixture was poured into 200 ml of water. The yellow solid was collected by filtration and dried to give 6-chloro-2-hydrazinopyridine-4-carbonitrile melting at about 208°-210° C.

reactant | 2,6-dichloropyridine-4-carbonitrile | 30.6 g | ClC1=NC(=CC(=C1)C#N)Cl | C6H2Cl2N2
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | hydrazine hydrate | 26 g | O.NN
solvent | water | 200 ml | O | H2O
product | 6-chloro-2-hydrazinopyridine-4-carbonitrile | ClC1=CC(=CC(=N1)NN)C#N | C6H5ClN4
